US08486962B2
A solution of 1-(4-nitro-phenyl)-pyrrolidine-2-carboxylic acid (0.75 g, 3.17 mmol) in methanol (20 ml) was cooled to 0° C. Thionyl chloride (0.71 ml, 9.51 mmol) was added dropwise and then the reaction mixture was stirred at room temperature overnight. The reaction mixture was evaporated to dryness and then diluted with dichloromethane. The organic layer was washed with bicarbonate solution, water and dried. Evaporation to dryness yielded 1-(4-nitrophenyl)-pyrrolidine-2-carboxylic acid methyl ester (0.58 g, 73%).

reactant | 1-(4-nitro-phenyl)-pyrrolidine-2-carboxylic acid | 3.17 mmol, 0.75 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(CCC1)C(=O)O | C11H12N2O4
reactant | Thionyl chloride | 9.51 mmol, 0.71 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 20 ml | CO | CH4O
product | 1-(4-nitrophenyl)-pyrrolidine-2-carboxylic acid methyl ester | 0.58 g, 73% | COC(=O)C1N(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O4
